US05773656
A mixture of 5 g of racemic ethyl 2-(4-chlorophenyl)-propionate and 50 ml of tert-butanol is treated at 50° C. with stirring with 1 g of lipase from Candida antarctica (Novozym 435, activity 7000 PLU/g). Ammonia is then passed into the reaction mixture with stirring at 50° C. until it is saturated. The mixture is stirred at 50° C. for a further 28 hours and during the course of this a slow stream of ammonia is continuously passed through the apparatus. The mixture is then worked up by filtering off the biocatalyst, washing it with tert-butanol and ethanol, concentrating the filtrate under reduced pressure and stirring the residue which remains with a mixture of petroleum ether:di-isopropyl ether=9:1. The product obtained in crystalline form is filtered off, washed with petroleum ether and dried. In this manner 1.78 g (42.8% of theory, conversion 44 area per cent GC) of (R)-2-(4-chloro-phenyl)-propionamide having an ee value of 96.1% are obtained.

reactant | racemic ethyl 2-(4-chlorophenyl)-propionate | 5 g | ClC1=CC=C(C=C1)C(C(=O)OCC)C | C11H13ClO2
reactant | Ammonia | N | H3N
solvent | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | (R)-2-(4-chloro-phenyl)-propionamide | 1.78 g, 42.8% | ClC1=CC=C(C=C1)[C@H](C(=O)N)C | C9H10ClNO
